US08097720B2
Step 3: 2-(2-Cyanovinyl)-4,5-dimethoxyphenyl dimethylsulphamate
Add 3.1 g (0.0773 mol) of sodium hydride in portions to a solution at 0° C. of 11.9 ml (0.0736 mol) of diethyl cyanomethylphosphonate in 400 ml of THF. Cool the mixture to −10° C. and add dropwise a suspension of 21.3 g (0.0736 mol) of 2-formyl-4,5-dimethoxyphenyl dimethylsulphamate in 200 ml of THF. Stir for 30 minutes and hydrolyse with 600 ml of a solution of sodium hydrogen carbonate and water (50/50) and then extract the solution twice with 300 ml of toluene each time. The organic phase is washed with 100 ml of water and 100 ml of saturated aqueous NaCl solution and then dried over MgSO4, filtered and evaporated to dryness. The residue obtained is crystallised in 80 ml of diisopropyl ether at ambient temperature and then filtered and washed with 20 ml of diisopropyl ether and dried in vacuo. 18.4 g of title product are obtained.

reactant | sodium hydride | 0.0773 mol, 3.1 g | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 0.0736 mol, 11.9 ml | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 2-formyl-4,5-dimethoxyphenyl dimethylsulphamate | 0.0736 mol, 21.3 g | CN(S(OC1=C(C=C(C(=C1)OC)OC)C=O)(=O)=O)C | C11H15NO6S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(2-Cyanovinyl)-4,5-dimethoxyphenyl dimethylsulphamate | 18.4 g, Yield=80% | CN(S(OC1=C(C=C(C(=C1)OC)OC)C=CC#N)(=O)=O)C | C13H16N2O5S
